US06448281B1
To a solution of (R)-(−)-3-pyrrolidinol hydrochloride (1.12 g, 9.1 mmol) in anhydrous THF (20 mL), a solution of di-tert-butyidicarbonate (2.07 g, 9.5 mmol) in THF (15 mL), followed by DIEA (4.74 mL, 27.2 mmol) were added. The reaction mixture was stirred at room temperature for 18 h then the solvent was evaporated. The residue was dissolved in EtOAc and the solution was washed with 10% aqueous HCl, saturated NaHCO3 and brine. The organic layer was dried over anhydrous MgSO4 and then evaporated to dryness to give the (R)-3-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester as a white solid (1.54 g).

reactant | (R)-(−)-3-pyrrolidinol hydrochloride | 9.1 mmol, 1.12 g | Cl.N1C[C@@H](CC1)O
reactant | di-tert-butyidicarbonate | 9.5 mmol, 2.07 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIEA | 27.2 mmol, 4.74 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (R)-3-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester | 1.54 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)O | C9H17NO3
